US07122580B2
3-Amino-(2S)-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid methyl ester hydrochloride (0.200 g, 0.493 mmol) was subjected to reductive amination as per general procedure E with biphenyl-4-carbaldehyde (0.080 g, 0.444 mmol) and sodium triacetoxyborohydride (0.208 g, 0.986 mmol) to yield the 3-[(biphenyl-4-ylmethyl)-amino]-(2S)-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid methyl ester which was further hydrolyzed as per general procedure C to yield 3-[(biphenyl-4-ylmethyl)-amino]-(2S)-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid (0.190 g, 70%).

reactant | 3-Amino-(2S)-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid methyl ester hydrochloride | 0.493 mmol, 0.200 g | Cl.COC([C@H](CN)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O
reactant | biphenyl-4-carbaldehyde | 0.444 mmol, 0.080 g | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | sodium triacetoxyborohydride | 0.986 mmol, 0.208 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 3-[(biphenyl-4-ylmethyl)-amino]-(2S)-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid methyl ester | COC([C@H](CNCC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C31H27F3N2O3
